US06515003B1
A mixture of 1,4-diisopropyl-6-methyl-1,2,3,4-tetrahydroquinoxaline (516 mg, 2.22 mmol) and tetrabutylammonium tribromide (1.18 g, 2.45 mmol) in anhydrous dichloromethane (20 mL) was stirred at room temperature for 4 hours. The solution was washed successively with a saturated aqueous solution of NaHCO3 (150 mL), water (150 mL), a saturated aqueous solution of NaCl (150 mL), dried over MgSO4 and filtered. Removal of the solvent under reduced pressure gave a solid which was purified by column chromatography, using a Biotage 40S cartridge, eluting with 5% ethyl acetate/95% hexane, to give 7-bromo-1,4-diisopropyl-6-methyl-1,2,3,4-tetrahydroquinoxaline as a white solid (480 mg, 70%).

reactant | 1,4-diisopropyl-6-methyl-1,2,3,4-tetrahydroquinoxaline | 2.22 mmol, 516 mg | C(C)(C)N1CCN(C2=CC(=CC=C12)C)C(C)C | C15H24N2
reactant | tetrabutylammonium tribromide | 2.45 mmol, 1.18 g | [Br-].[Br-].[Br-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 7-bromo-1,4-diisopropyl-6-methyl-1,2,3,4-tetrahydroquinoxaline | 480 mg, 70% | BrC1=C(C=C2N(CCN(C2=C1)C(C)C)C(C)C)C | C15H23BrN2
